US06083968
To a solution of 2-chloro-2', 4'-difluoroacetophenone (10 g, 0.053 mol) and ethyl mercaptan (3.6 g, 0.058 mol) in methanol (200 ml), potassium carbonate (8.8 g, 0.064 mol) was added under ice cooling, followed by stirring at room temperature for 1.5 hours. After the completion of the reaction, the solvent was distilled off under reduced pressure. Water was added to the residue, followed by extraction with ether. The extract was washed successively with water and saturated saline and dried over magnesium sulfate. The solvent was then distilled off under reduced pressure. The resulting oil was distilled under reduced pressure (bp: 115 to 118° C., 2 mmHg), whereby 2', 4'-difluoro-2-(ethylthio)acetophenone (11.4 g, yield: 99.9%) was obtained as a colorless oil.

reactant | 2-chloro-2', 4'-difluoroacetophenone | 0.053 mol, 10 g | ClCC(=O)C1=C(C=C(C=C1)F)F | C8H5ClF2O
reactant | ethyl mercaptan | 0.058 mol, 3.6 g | C(C)S | C2H6S
reactant | potassium carbonate | 0.064 mol, 8.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 ml | CO | CH4O
product | 2', 4'-difluoro-2-(ethylthio)acetophenone | 11.4 g, yield: 99.9% | FC1=C(C=CC(=C1)F)C(CSCC)=O | C10H10F2OS
